US05959113
2,4,6-Trimethyl-3-morpholin-4-yl-methylbenzaldehyde
A solution of 0.98 g of 3-chloromethyl-2,4,6-trimethylbenzaldehyde in 20 ml of acetonitrile was treated with 0.87 ml of morpholine. The mixture was stirred at room temperature for 4 hours and thereafter filtered. The solvent was evaporated and the residue was dissolved in ethyl acetate. The solution was washed twice with water, dried over anhydrous magnesium sulphate and evaporated to dryness. Distillation of the residue yielded 1.05 g of 2,4,6-trimethyl-3-morpholin-4-yl-methylbenzaldenhyde, b.p. 150° C./0.3 Torr.

reactant | 3-chloromethyl-2,4,6-trimethylbenzaldehyde | 0.98 g | ClCC=1C(=C(C=O)C(=CC1C)C)C | C11H13ClO
reactant | morpholine | 0.87 ml | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2,4,6-Trimethyl-3-morpholin-4-yl-methylbenzaldehyde | CC1=C(C=O)C(=C(C(=C1N1CCOCC1)C)C)C | C15H21NO2
